US04952600
(S)-4-Hydroxy-1-[4-(1-pyrrolidinyl)2-butynyl]-2-pyrrolidinone
A mixture of 7.2 g of (S)-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone and 75 ml of 1N methanolic hydrochloric acid was stirred for 1 hour, then cooled to 0° C. and basified to pH 8 with methanolic potassium hydroxide. The mixture was filtered and the filtrate evaporated. The residue was reevaporated from dichloromethane. The residual oil was purified by chromatography (alumina), giving 0.4 g of the desired product as a yellow oil, [α]D26 =-12° (dichloromethane).

reactant | (S)-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 7.2 g | CC(C)(C)[Si](O[C@H]1CC(N(C1)CC#CCN1CCCC1)=O)(C)C | C18H32N2O2Si
reactant | hydrochloric acid | 1N, 75 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
product | (S)-4-Hydroxy-1-[4-(1-pyrrolidinyl)2-butynyl]-2-pyrrolidinone | 0.4 g | O[C@H]1CC(N(C1)CC#CCN1CCCC1)=O | C12H18N2O2
